US08497281B2
(cis-7-Amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine following a procedure analogous to that described in Example 1. Yield: 30% of theory; LC (method 1): tR=0.79 min; Mass spectrum (ESI+): m/z=333 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-7-ylamine | N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N | C12H16N2
product | (cis-7-Amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone | Yield: 30% | NC1=CC=2C[C@@H]3N(CCC[C@@H]3C2C=C1)C(=O)C1=CC2=C(NC=N2)C=C1 | C20H20N4O
